US05409927
1g) H-(L)-Val-(L)-Phe-morpholin-4-ylamide
In a manner analogous to Example 1 e), 3.9 g of Z-(L)-Val-(L)-Phe-morpholin-4-ylamide in 150 ml of methanol are converted by hydrogenolysis over 0.5 g of 10% Pd/C into the crude title compound, which is purified by column chromatography (SiO2, methylene chloride→methylene chloride/methanol: 97.5 to 2.5 (v/v)). TLC Rf (D)=0.4.

reactant | Z-(L)-Val-(L)-Phe morpholin-4-ylamide | 3.9 g | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-]
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | H-(L)-Val-(L)-Phe morpholin-4-ylamide | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.N1(CCOCC1)[NH-] | InChI=1S/C14H20N2O3.C4H9N2O/c1-9(2)12(15)13(17)16-11(14(18)19)8-10-6-4-3-5-7-10;5-6-1-3-7-4-2-6/h3-7,9,11-12H,8,15H2,1-2H3,(H,16,17)(H,18,19);5H,1-4H2/q;-1/t11-,12-;/m0./s1
